US07687490B2
A solution (44 ml) of 4.39 ml of N-methylcyclo-N-hexylamine and 5.44 ml of triethylamine in toluene was added dropwise to 27 ml of a solution of 2.67 ml of chloromethyl chloroformate in toluene over a period of 5 min while cooling in an ice bath, and the mixture was stirred at room temperature for 17 hr. 1 N hydrochloric acid (60 ml) was added thereto, followed by separation. The organic layer was then washed with 60 ml of a 5% aqueous sodium hydrogencarbonate solution and 60 ml of 20% brine, was dried over anhydrous magnesium sulfate, and was filtered, and the solvent was removed by distillation under the reduced pressure to give 5.76 g of chloromethyl N-cyclohexyl-N-methylcarbamate.

reactant | triethylamine | 5.44 ml | C(C)N(CC)CC | C6H15N
reactant | chloromethyl chloroformate | 2.67 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | chloromethyl N-cyclohexyl-N-methylcarbamate | 5.76 g | C1(CCCCC1)N(C(OCCl)=O)C | C9H16ClNO2
